US08258119B2
3-[(Dimethylamino)diazenyl]-5-nitrothiophene-2-carboxamide:
To an ice cold (0-5° C.) solution of ammonium hydroxide (35 mL) was added a solution of methyl 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylate (400 mg) in THF (10 mL) for 5 min and stirred at rt for 20 h. The solution was poured into ice cooled water and extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using hexane-ethyl acetate (50:50) as eluents to give the product as a yellow color solid (90 mg, 26%), mp 240-246° C. 1H NMR (400 MHz, DMSO-d6): δ 8.22 (1H, s), 8.05 (1H, s), 7.91 (1H, s), 3.63 (3H, s), 3.26 (3H, s); LC-MS (positive ion mode): m/z 266 (M+Na)+.

reactant | ammonium hydroxide | 35 mL | [OH-].[NH4+]
reactant | methyl 3-[(dimethylamino)diazenyl]-5-nitrothiophene-2-carboxylate | 400 mg | CN(C)N=NC1=C(SC(=C1)[N+](=O)[O-])C(=O)OC | C8H10N4O4S
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(Dimethylamino)diazenyl]-5-nitrothiophene-2-carboxamide | 90 mg, 26% | CN(C)N=NC1=C(SC(=C1)[N+](=O)[O-])C(=O)N | C7H9N5O3S
